US07314888B1
In 9 ml of N,N-dimethylformamide is dissolved 0.86 g of (2,4-diisobutoxyphenyl)(3-hydroxy-4-isobutoxyphenyl)methanone, to which is added 0.12 g of 60% sodium hydride. After elevating the temperature to 80° C., 0.52 ml of ethyl 2-bromoacetate is added, and the mixture thus obtained is stirred at 80-90° C. for 30 minutes. The reaction mixture is cooled to ambient temperature and added to a mixture of ethyl acetate and water, pH is adjusted to 2 with 6 mol/L hydrochloric acid, and the organic layer is separated. The organic layer thus obtained is washed with water and saturated aqueous solution of sodium chloride successively and dried over anhydrous magnesium sulfate, and the solvent is distilled off under reduced pressure. The residue thus obtained is purified by silica gel column chromatography (eluent; hexane:ethyl acetate=5:1) to obtain 1.00 g of ethyl 2-[5-(2,4-diisobutoxybenzoyl)-2-isobutoxyphenoxy]acetate as a light yellow oily product.

reactant | (2,4-diisobutoxyphenyl)(3-hydroxy-4-isobutoxyphenyl)methanone | 0.86 g | C(C(C)C)OC1=C(C=CC(=C1)OCC(C)C)C(=O)C1=CC(=C(C=C1)OCC(C)C)O | C25H34O5
reactant | sodium hydride | 0.12 g | [H-].[Na+]
reactant | ethyl 2-bromoacetate | 0.52 ml | BrCC(=O)OCC | C4H7BrO2
reactant | hydrochloric acid | 6 mol/L | Cl | ClH
solvent | N,N-dimethylformamide | 9 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 2-[5-(2,4-diisobutoxybenzoyl)-2-isobutoxyphenoxy]acetate | 1.00 g | C(C(C)C)OC1=C(C(=O)C=2C=CC(=C(OCC(=O)OCC)C2)OCC(C)C)C=CC(=C1)OCC(C)C | C29H40O7
